* NGSPICE file created from nf10_w5.ext - technology: gf180mcuD

.subckt nf10_w5
X0 a_2606_150# a_2206_58# a_2102_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X1 a_2102_150# a_1702_58# a_1598_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X2 a_590_150# a_190_58# a_102_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=2u
X3 a_3614_150# a_3214_58# a_3110_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X4 a_3110_150# a_2710_58# a_2606_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X5 a_1094_150# a_694_58# a_590_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X6 a_4622_150# a_4222_58# a_4118_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X7 a_4118_150# a_3718_58# a_3614_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
X8 a_5126_150# a_4726_58# a_4622_150# a_n36_n36# nfet_03v3 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=2u
X9 a_1598_150# a_1198_58# a_1094_150# a_n36_n36# nfet_03v3 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=2u
.ends

