* NGSPICE file created from p1_probe.ext - technology: gf180mcuD

.subckt nfet_03v3_W9A2MV a_n200_n1092# a_n426_n1186#
X0 a_200_n1000# a_n200_n1092# a_n288_n1000# a_n426_n1186# nfet_03v3 ad=4.4p pd=20.88u as=4.4p ps=20.88u w=10u l=2u
.ends

.subckt pfet_03v3_4SP6CQ a_n200_n1092# w_n450_n1210#
X0 a_200_n1000# a_n200_n1092# a_n288_n1000# w_n450_n1210# pfet_03v3 ad=4.4p pd=20.88u as=4.4p ps=20.88u w=10u l=2u
.ends

.subckt p1_probe
XMN VSUBS VSUBS nfet_03v3_W9A2MV
XMP VSUBS VSUBS pfet_03v3_4SP6CQ
.ends

