* GF180MCU_D 5-turn square-spiral inductor v1 (pi-model)

.SUBCKT vco_inductor PORT1 PORT2 GND
.option scale=5n

* Series L, R, and parallel C
L0 PORT1 INT_LR 1.42n
X0 INT_LR PORT2 tm11k r_width=2000 r_length=24800
C0 PORT2 PORT1 11.8982f

* PORT1-side shunt C
C1 PORT1 GND 14.2365f

* PORT2-side shunt C (merged)
C2 PORT2 GND 93.6598f

.ENDS