* GF180MCU-D dual square spiral inductor v2 (1.2 nH total)
* Parameters: D_in=20, D_out=76, N=3, W=8, S=2, Gap=30

.SUBCKT vco_inductor_v2 PORT1 PORT2 GND
.option scale=5n

* PORT1-bridge (R + L) || C
L0 PORT1 INT_NODE1 0.60n
X0 INT_NODE1 m4_bridge tm11k r_width=1600 r_length=15200
C0 PORT1 m4_bridge 7.46091f

* PORT2-bridge (R + L) || C
L1 PORT2 INT_NODE2 0.60n
X1 INT_NODE2 m4_bridge tm11k r_width=1600 r_length=15200
C1 PORT2 m4_bridge 7.46091f

* substrate-bridge/PORT1/PORT2 capacitances
C2 m4_bridge GND 74.498f
C3 PORT1 GND 6.15034f
C4 PORT2 GND 6.15034f

.ENDS